US07514457B2
8A) 6-(Aminomethyl)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one, hydrochloride
A mixture of tert-butyl [(3-methyl-2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)methyl]carbamate (658 mg, 2.37 mmol) and 10% hydrogen chloride-MeOH was stirred for 2 hours at ambient temperature. The formed precipitate was collected and washed with DCM to give the title compound as a white solid (436 mg, 86%). 1H NMR (CDCl3): δ 3.28 (3H, s), 3.73 (2H, brs), 7.01 (1H, d, J=7.9 Hz), 7.12 (1H, d, J=7.9 Hz), 7.28 (1H, d, J=8.5 Hz), 8.03-8.67 (3H, m), 11.02 (1H, s). MS (ESI) m/z 176 (M−H)+.

reactant | tert-butyl [(3-methyl-2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)methyl]carbamate | 2.37 mmol, 658 mg | CN1C(NC2=C1C=C(C=C2)CNC(OC(C)(C)C)=O)=O | C14H19N3O3
reactant | hydrogen chloride MeOH | Cl.CO
product | 6-(Aminomethyl)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one, hydrochloride | 436 mg, 86% | Cl.NCC=1C=CC2=C(N(C(N2)=O)C)C1 | InChI=1S/C9H11N3O.ClH/c1-12-8-4-6(5-10)2-3-7(8)11-9(12)13;/h2-4H,5,10H2,1H3,(H,11,13);1H
